US09029536B2
D) 3-[4-(Benzyloxy)phenyl]-1-ethyl-1H-pyrazolo[3,4-b]pyrazine
A suspension of 3-[4-(benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyrazine (0.58 g), EtI (0.18 ml), and K2CO3 (0.39 g) in DMF (5 mL) was stirred for 3 h at room temperature. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with water and brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (0.61 g).

reactant | 3-[4-(benzyloxy)phenyl]-1H-pyrazolo[3,4-b]pyrazine | 0.58 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NNC2=NC=CN=C21 | C18H14N4O
reactant | EtI | 0.18 ml | C(C)I | C2H5I
reactant | K2CO3 | 0.39 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(Benzyloxy)phenyl]-1-ethyl-1H-pyrazolo[3,4-b]pyrazine | 0.61 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN(C2=NC=CN=C21)CC | C20H18N4O
